US04197298
In 150 ml of chloroform is dissolved 40 g of methyl 3-oxo-2-methoxyiminobutyrate. The solution is warmed to 40° C. and a solution of 40 g of bromine in 50 ml of chloroform is added dropwise over a period of 1 hour. Then, the mixture is further stirred at room temperature for another hour. The reaction mixture is washed with a 5% aqueous solution of sodium hydrogen carbonate and, then, with water. The organic layer is dried and the solvent is distilled off under reduced pressure. By the above procedure is obtained 52.1 g of methyl 4-bromo-3-oxo-2-methoxyiminobutyrate as an oil.

reactant | methyl 3-oxo-2-methoxyiminobutyrate | 40 g | O=C(C(C(=O)OC)=NOC)C | C6H9NO4
reactant | bromine | 40 g | BrBr | Br2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-bromo-3-oxo-2-methoxyiminobutyrate | 52.1 g | BrCC(C(C(=O)OC)=NOC)=O | C6H8BrNO4
